US04977146
STEP 16E: trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetra-hydrofuran.
A solution of 1-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol (from previous experiment) in chloroform (20 mL) was treated with 10% trifluroacetic acid (20 mL). The reaction was monitored by TLC. After 1 h, anhydrous sodium carbonate was added, and the solid was filtered off and washed with chloroform. The solvent was evaporated and the residue was passed through a flash column of silica gel (hexane-ethyl acetate; 2:1, v/v). The cis- and trans-isomers were then separated by HPLC (hexane-ethyl acetate; 1:1, v/v). Rf 0.33 (hexane-ethyl acetate; 1:1, v/v); NMR (CDCl3) δ 0.98 (t, J=7.5 Hz, CH2CH2CH3), 1.83 (m, CH2CH2CH3), 2.85 (t, J=6.5 Hz, OH), 3.67 (q, SO2CH2), 3.98 (q, SO2CH2CH2), 4.17 (t, CH2CH2CH3), 5.18 (s, CH2C6H5), 6.63 (s, 2 H, C5ArH).

reactant | 1-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C31H40O10S
reactant | trifluroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetra-hydrofuran | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C31H38O9S
